Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
Central venous line (___)
 
History of Present Illness:
Ms. ___ is a ___ with decompensated cirrhosis with frequent 
hospitalizations for hepatic encephalopathy, admitted to ___. 
___ ___ from a rehab facility for AMS, transferred to 
___ ___ for higher level of liver care. 

She was treated for hepatic encephalopathy at ___, she 
required both PO and PR lactulose and had only partial 
improvement in her mental status and became more lethargic at 
___ before transfer on ___. Her ___ 
hospitalization was complicated by aspiration pneumonitis 
leading to respiratory failure and intubated for ___ days 
(extubated on ___. On ___ she spiked a fever, cultures were 
drawn that grew yeast x2 and VRE she was given 1 dose each of 
daptomycin and micafungin ___ before transfer. She also had an 
acute Hb drop from 10.2 to 8.4 overnight prior to the day of 
transfer. OSH labs showed fibrinogen low at 53, D-dimer elevated 
and she got 2u cryoprecipitate.

On ___ she was transfered to She was transferred from ___. 
___ on ___ for higher level of care to be provided at a 
___. Upon arrival she was found to be unresponsive, 
with leftward gaze deviation and unequal pupil diameter (note: 
pt has hx of bilateral cataract surgery). A code stroke was 
called, ___ did not show evidence of intracranial hemorrhage. 
EEG showed left sided slowing. 

On transfer, vitals were: 97.9, 134/74, 95, 18, 98% RA
On arrival to the MICU, the patient had improved mental status. 
She was able to open her eyes to voice and able to respond "no" 
when asked about pain. The patient was intubated for 
desaturation in the setting of feculent material coming out of 
her NGT, and for airway protection. 
 
Past Medical History:
Mitral Regurgitation (diagnosed ECHO ___ showed mild MR, no 
vegetation)
Thrombocytopenia 
Alcohol Use Disorder ___ hx heavy EtOH)
Cirrhosis (Alcoholic hepatitis anti-smooth muscle + [37], ___ + 
1:80)
 
Social History:
___
Family History:
Unknown, unresponsive
 
Physical Exam:
ADMISSION PHYSICAL EXAM: Prior to intubation
======================
T: 97.9 BP: 134/74 P: 95 R: 18 O2 98% 
General: Somnolent, lying in bed with eyes closed.
HEENT: Sclera icteric, asymmetric pupils (R pupil large and 
irregular, L pupil pinpoint). 
NECK: Pulsatile neck veins. 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 S2, holosystolic murmur 
loudest along the LSB without radiation to carotids or axilla. 
ABD: distended, soft, + bowel sounds present, bandage in place 
over LLQ, c/d/I. 
GU: Foley in place draining amber liquid 
EXT: 2+ pitting edema to the knee. 
Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema 
SKIN: jaundice.
NEURO: somnolent. Opens eyes to voice and can respond "no" when 
asked about pain. Withdraws all 4 extremities to pain. Corneal 
reflexes intact bilaterally. Face moves symmetrically. No 
asterixis. 

DISCHARGE PHYSICAL EXAM: Patient expired.
=======================
 
Pertinent Results:
ADMISSION LABS:
==============
___ 08:42PM BLOOD WBC-5.3 RBC-1.61* Hgb-6.6* Hct-21.4* 
MCV-133* MCH-41.0* MCHC-30.8* RDW-17.0* RDWSD-78.5* Plt Ct-16*
___ 08:42PM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-2+ 
Macrocy-3+ Microcy-NORMAL Polychr-OCCASIONAL Ovalocy-1+ Tear 
___
___ 08:42PM BLOOD ___ PTT-66.7* ___
___ 01:12AM BLOOD ___
___ 09:58AM BLOOD Ret Aut-13.5* Abs Ret-0.25*
___ 08:42PM BLOOD Glucose-396* UreaN-72* Creat-0.8 Na-135 
K-4.0 Cl-102 HCO3-18* AnGap-19
___ 08:42PM BLOOD ALT-45* AST-27 LD(LDH)-682* CK(CPK)-119 
AlkPhos-114* TotBili-17.8* DirBili-7.3* IndBili-10.5
___ 08:42PM BLOOD CK-MB-11* MB Indx-9.2* cTropnT-0.17*
___ 01:12AM BLOOD CK-MB-12* MB Indx-9.6* cTropnT-0.15*
___ 08:42PM BLOOD Albumin-3.5 Calcium-10.0 Phos-4.4 Mg-2.3
___ 01:12AM BLOOD Hapto-<10*
___ 05:43AM BLOOD calTIBC-134* VitB12-1709* Folate-18 
Ferritn-287* TRF-103*
___ 01:12AM BLOOD TSH-0.48
___ 01:26AM BLOOD ___ pO2-39* pCO2-36 pH-7.34* 
calTCO2-20* Base XS--5
___ 01:26AM BLOOD Lactate-4.4*
___ 12:15AM URINE Color-Yellow Appear-Hazy Sp ___
___:15AM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-150 Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-SM 
___ 12:15AM URINE RBC-10* WBC-19* Bacteri-FEW Yeast-RARE 
Epi-<1 TransE-1

MICRO:
======
___ TIP-IVWOUND 
CULTURE-FINALINPATIENT NEGATIVE
___ STAIN-FINAL; RESPIRATORY 
CULTURE-FINALINPATIENT NEGATIVE
___ CULTUREBlood Culture, Routine-PENDING
___ CULTURE-FINAL {YEAST}INPATIENT 
___ CULTUREBlood Culture, Routine-PENDING
___ CULTUREBlood Culture, 
Routine-PRELIMINARY {YEAST}; Aerobic Bottle Gram Stain-FINAL

IMAGES/STUDIES:
=============
EEG (___): MPRESSION: This is an abnormal continuous ICU EEG 
monitoring study because of continuous focal slowing over the 
left hemisphere, maximally in the temporal region, indicative of 
cerebral dysfunction in this region. There is also diffuse 
slowing indicative of a moderate encephalopathy which is 
nonspecific as to etiology. There are no electrographic 
seizures.

CTA head/neck (___): 1. No acute intracranial abnormality on 
noncontrast head CT.  Specifically no
intracranial hemorrhage or large territory infarct. 2. 
Suboptimal CTA examination demonstrating grossly patent 
intracranial arterial vasculature without definite occlusion or 
aneurysm formation. 3. Grossly patent cervical arterial 
vasculature without significant stenosis, occlusion, or 
dissection.
4. Moderate global atrophy, greater than expected for age. 5. 
Scattered opacities in the visualized upper lung fields with 
small bilateral pleural effusions, are nonspecific, and may 
represent pulmonary edema, infection or inflammation. 6. 
Multiple maxillary periapical lucencies compatible with 
periodontal disease.

CXR (___): NG tube tip iscoiled in the stomach.  Right PICC tip 
is in the lower SVC. There is moderate pulmonary edema.  There 
are low lung volumes.  There is mild to moderate cardiomegaly.  
There is no evident pneumothorax.  Bilateral effusions are 
suspected.

TTE (___): The left atrium is mildly dilated. There is mild 
symmetric left ventricular hypertrophy with normal cavity size. 
Regional left ventricular wall motion is normal. Left 
ventricular systolic function is hyperdynamic (EF>75%). Right 
ventricular chamber size and free wall motion are normal. No 
masses or vegetations are seen on the aortic valve, but cannot 
be fully excluded due to suboptimal image quality. There is no 
valvular aortic stenosis. The increased transaortic velocity is 
likely related to high cardiac output. No aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. No 
masses or vegetations are seen on the mitral valve, but cannot 
be fully excluded due to suboptimal image quality. Trivial 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. IMPRESSION: No vegetations or clinically-significant 
regurgitant valvular disease seen (suboptimal-quality study). 
Hyperdynamic biventricular systolic function. 

AXR (___): No ileus or obstruction.

Abdominal US (___): 1. Patent portal and splenic veins with 
reversed flow, likely due to portal
hypertension with probable splenorenal shunt. 2.  Cirrhotic 
liver with no evidence of focal hepatic lesion in limited views. 
3.  Diffuse gallbladder wall thickening is likely secondary to 
chronic hepatic
disease. No ascites.

CT chest w/o contrast (___): Bilateral pleural effusions with 
adjacent atelectasis.  Extensive
predominantly peripheral nodular opacities of mixed attenuation. 
 The most likely differential diagnosis is multifocal bacterial 
or fungal pneumonia.  No relevant lymphadenopathy.  No 
mediastinal or hilar abnormalities.

CT abdomen/pelvis w/o contrast (___): 1. Findings suggesting 
pancreatitis.  Correlation with laboratory testing is 
recommended. 2. Possible small bowel ileus.  No definite focal 
small bowel obstruction is identified. 3. Findings of hepatic 
cirrhosis.

CT head w/o contrast (___): 1. Interval development of large 
intraparenchymal hematoma involving the right frontal, parietal, 
and temporal lobes with intraventricular extension in the 
severely dilated bilateral lateral, third, and fourth ventricle. 
2. Small focus of intraparenchymal hematoma in the right 
cerebellum. 3. Severe mass effect with diffuse brain swelling, 
1.2 cm leftward midline shift, and effacement the basal 
cisterns.

LATEST LABS:
==========
___ 11:01AM BLOOD WBC-10.3* RBC-UNABLE TO  Hgb-7.8* 
Hct-26.0* MCV-UNABLE TO  MCH-UNABLE TO  MCHC-UNABLE TO  
RDW-UNABLE TO  RDWSD-UNABLE TO  Plt Ct-73*#
___ 04:04AM BLOOD ___ PTT-43.1* ___
___ 10:10PM BLOOD ___
___ 04:04AM BLOOD Glucose-102* UreaN-71* Creat-1.1 Na-138 
K-3.6 Cl-104 HCO3-17* AnGap-21*
___ 04:04AM BLOOD ALT-46* AST-32 LD(LDH)-561* AlkPhos-85 
TotBili-17.9*
___ 04:04AM BLOOD Calcium-10.2 Phos-4.2 Mg-2.___ w/ decompensated ETOH cirrhosis, anemia, VRE 
bacteremia/fungemia, intubated for AMS and concern for 
multifocal PNA vs. aspiration.

#Altered mental status:
#Encephalopathy:
#Intracerebral hemorrhage:
Patient had waxing and waning mental status with no focal 
neurologic deficits but leftward gaze deviation on admission. 
Initial NCHCT clear. Thought to initially be toxic-metabolic 
encephalopathy with hepatic encephalopathy and continued on 
antibiotics and lactulose. Neurology was consulted during 
initial code stroke. EEG showed diffuse slowing, but no 
concerning signs of seizure. She had an emergent CT in the 
setting of worsening neurologic exam (no withdrawing), which 
showed large intracerebral hemorrhage and she was started on 
keppra 1 g BID. Neuro and neurosurgery saw her and given her 
poor prognosis, she was soon transitioned to CMO and passed on 
___.
 
#Hypoxic Respiratory Failure: 
Initially satting in ___ on ___ NC in the setting of feculent 
material coming out of NGT. CXR prior to intubation showed 
multifocal patchy opacities, which could indicate multifocal 
pneumonia, pulmonary edema, pneumonitis, or even early ARDS. She 
was started on vanc and zosyn for HAP coverage. 

#Disseminated intravascular coagulation:
Hemoglobin dropped from 10.2 to 6.6 in ___ from ___ to 
admission on ___. S/p 1u pRBC with appropriate bump to 8.3. 
There was also concern for acute blood loss anemia given this 
pt's coagulopathy (INR 2.8, platelets 16) and amber colored 
urine and report of vaginal bleeding is concerning for mucosal 
bleeding. OSH labs concerning for DIC (fibrinogen 53, elevated 
D-dimer), received 2u of cryoprecipitate at OSH. Macrocytic 
anemia likely from underlying liver disease (folate and b12 
normal at OSH). Had gross streaks of blood in stool. s/p 1 
uPRBC,  1 PLT, and ___ FFP ___.  She was given octreotide and IV 
PPI for concern for GIB in a cirrhotic (she had no known EGDs 
prior to presentation).

#Decompensated Cirrhosis (MELD 30):
Cirrhosis suspected from both autoimmune hepatitis and ___ y hx 
of heavy alcohol use. She has had viral hepatitis labs in the 
past that were negative. No documented history of varices or 
SBP. Not a candidate for transplant given recent EtOH use 6 days 
prior to OSH admission. Coagulopathic (INR 2.8, platelets 16, 
BUN 72). Abdominal US without evidence of biliary obstruction or 
ascites. She was continued on methylprednisone for her AIH, 
although this was eventually discontinued due to her infection 
and unclear history of AIH. She was given lactulose, octreotide, 
IV PPI initially through her OGT, but this was discontinued when 
she was made CMO. 

#Hyperglycemia:
Likely ___ steroids. No record of preexisting DM and ___ A1c 
was 4.3 (but could be artificially low if she is hemolysing). BS 
has been very poorly controlled at OSH (high 300s) and has been 
high 300s-400s this admission. She was initially given lantus 
24u qPM, uptitrated as needed as well as an insulin SS.

#NSTEMI II: 
Trops peaked at 0.17 on admission with STD in V4-V5 resolved on 
recheck. Likely NSTEMI II in the setting of anemia. She was not 
given aspirin given concern for bleeding/DIC and her 
coagulopathy.

#Lactic acidosis:
Lactate accumulation likely from a combination of poor liver 
function (decreased metabolism of lactate) and possibly  
hemorrhage and/or infection. No signs of hypoperfusion on exam 
(no hypotension, warm and well perfused on exam, adequate urine 
output) making decreased tissue perfusion less likely.  

#Volume status:
Volume overloaded on exam (2+ pitting edema to the knee 
bilaterally, Evidence of third spacing on exam. Was made CMO 
prior to diuresis.

#VRE bacteremia and fungemia:
Blood cultures at OSH and then fungemia here after she was made 
CMO. ID was consulted and she was given daptomycin, micafungin, 
cefepime until she was made CMO.

TRANSITIONAL ISSUES:
==================
-Patient expired
-Communication/HCP: ___ ___ (son) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Thiamine 100 mg PO DAILY 
3. Rifaximin 550 mg PO BID 
4. Spironolactone 25 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Lactulose 20 mL PO QID 
7. Furosemide 20 mg PO DAILY 
8. Potassium Chloride 20 mEq PO DAILY 
9. Methylprednisolone 40 mg PO DAILY 

 
Discharge Medications:
Expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Primary diagnosis:
==============
Massive intracerebral hemorrhage
ETOH cirrhosis
Disseminated intravascular coagulation
Anemia
Toxic-metabolic encephalopathy
Candidemia
Vancomycin resident enterococcus bacteremia

Secondary diagnosis:
================
Lactic acidosis
Thrombocytopenia
Coagulopathy
Uremia

 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___